US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]-4-[(hydroxyimino)[5-(pyridin-4-yl)pyrimidin-2-yl]methyl]piperazine
In ethanol (50 ml) was suspended 1-[(5-chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-4-yl)pyrimidin-2-yl]thiocarbonyl]piperazine (243 mg) at room temperature, followed by the successive addition of hydroxylamine hydrochloride (338 mg), sodium acetate (399 mg) and mercury (II) chloride (132 mg). The resulting mixture was stirred at room temperature for 6 hours. The insoluble matter was filtered off through Celite filtration. The residue was purified by chromatography on a silica gel column (7% methanol—methylene chloride), whereby two fractions were obtained. They were concentrated, respectively, whereby a low-polarity compound (20 mg, colorless powder) and a high-polarity compound (20 mg, colorless powder) were obtained. Low-polarity compound:

reactant | 1-[(5-chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-4-yl)pyrimidin-2-yl]thiocarbonyl]piperazine | 243 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=S)C1=NC=C(C=N1)C1=CC=NC=C1 | C22H19ClN6O2S2
reactant | hydroxylamine hydrochloride | 338 mg | Cl.NO
reactant | sodium acetate | 399 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | mercury (II) chloride | 132 mg | [Hg](Cl)Cl
product | 1-[(5-Chloroindol-2-yl)sulfonyl]-4-[(hydroxyimino)[5-(pyridin-4-yl)pyrimidin-2-yl]methyl]piperazine | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=NC=C(C=N1)C1=CC=NC=C1)=NO | C22H20ClN7O3S
